US08865894B2
Step 22.7: (tert-butyl cyclopent-2-en-1-yl((2-nitrophenyl)sulfonyl)carbamate
To a suspension of triphenylphosphine (3.09 g, 11.77 mmol), tert-butyl 2-nitrophenylsulfonyl-carbamate (3.40 g, 11.23 mmol) and cyclopent-2-enol (0.900 g, 10.70 mmol) in toluene (60 mL) was added dropwise at −20° C. the diethylazodicarboxylate (1.948 mL, 12.30 mmol). The reaction mixture was stirred at −20° C. for 2 h followed by 3 h at 0° C. The reaction mixture was concentrated and the title compound was obtained after purification by flash chromatography (heptane/EtOAc 95:5→3:1) as a white solid (2.79 g, 67%): tR=1.34 min (UPLC 1), tR, 1.24 min (LC-MS 3); ESI-MS: 386 M+NH4]+ (LC-MS 3).

reactant | triphenylphosphine | 11.77 mmol, 3.09 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | tert-butyl 2-nitrophenylsulfonyl-carbamate | 11.23 mmol, 3.40 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC(OC(C)(C)C)=O | C11H14N2O6S
reactant | cyclopent-2-enol | 10.70 mmol, 0.900 g | C1(C=CCC1)O | C5H8O
reactant | diethylazodicarboxylate | 12.30 mmol, 1.948 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl cyclopent-2-en-1-yl((2-nitrophenyl)sulfonyl)carbamate | C1(C=CCC1)N(C(OC(C)(C)C)=O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H20N2O6S
